US04096264
A. 2-(Methoxycarbonylamino) 6-(p-chlorosulfonylphenylthio) imidazo [1,2-a] pyridine
4.5 gms. (0.015 mole) of 2-methoxycarbonylamino 6-(phenylthio) imidazo [1,2-a] pyridine is added portionwise to 45 ml. of chlorosulfonic acid at 0° to -5° C. The reaction mixture is stirred at room temperature for 24 hours. The solution is poured onto ice and the solids are collected by filtration. After repeated washes with water, the crude chlorosulfonic acid derivative is dried at room temperature in vacuo.

reactant | 2-methoxycarbonylamino 6-(phenylthio) imidazo [1,2-a] pyridine | 0.015 mole | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 2-(Methoxycarbonylamino) 6-(p-chlorosulfonylphenylthio) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=C(C=C2)S(=O)(=O)Cl)C1 | C15H12ClN3O4S2
